US08222416B2
To a solution of tetrabutylammonium bromide (104 mg, 0.32 mmol) and 5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine (1.74 g, 10.76 mmol) in dichloromethane (100 mL) was added sodium hydroxide powder (1.3 g, 32.4 mmol) at 0° C. The mixture was stirred at 0° C. for 5 min and then treated with benzene sulfonyl chloride (1.7 mL, 14.0 mmol). The mixture was stirred at 0° C. for another 15 min before it was warmed to 25° C. and stirred for 12 h. The resulting mixture was filtered and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine (1.54 g, 47.5%) as a white solid: LC/MS m/e calcd for C15H14N2O3S [M+H]+ 303.35, observed 302.9.

reactant | 5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine | 10.76 mmol, 1.74 g | COCC=1C=C2C(=NC1)NC=C2 | C9H10N2O
reactant | sodium hydroxide | 32.4 mmol, 1.3 g | [OH-].[Na+]
reactant | benzene sulfonyl chloride | 14.0 mmol, 1.7 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetrabutylammonium bromide | 0.32 mmol, 104 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine | 1.54 g, 47.5% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)COC | C15H14N2O3S
